US06525202B2
N-(5-Acetyl-2-benzyloxy-phenyl)-benzenesulfonamide
To a stirred solution of 1-(3-amino-4-benzyloxy-phenyl)-ethanone (EP 0 659 737) (16.98 g, 70.0 mmol) in pyridine (50 mL) was added dropwise benzenesulfonyl chloride (13.09 g, 73.5 mmol) in 100 mL of pyridine at room temperature. The reaction was stirred for 18 hours under nitrogen atmosphere. The mixture was diluted with CH2Cl2 (700 mL) and washed with 1N hydrochloric acid, water, dried over Na2SO4, and concentrated. The product was purified by flash silica gel chromatography eluting with CH2Cl2 to give the title compound as a tan solid (12.55 g, 47%); 1H NMR (300 MHz, DMSO-d6) δ 3.33 (s, 3H), 5.03 (s, 2H), 7.02 (d, J=8.7 Hz, 1H), 7.35 (m, 3H), 7.44 (t, J=15 Hz, 2H), 7.58 (m, 1H), 7.50 (m, 3H), 7.81 (d, 1H), 9.83 (s, 1H); MS (ES) m/z: 381.9 (MH+, 100%); HRMS Calcd. for C21H19NO4S(MH+): 382.1107. Found: 382.1100.

reactant | 1-(3-amino-4-benzyloxy-phenyl)-ethanone | 70.0 mmol, 16.98 g | NC=1C=C(C=CC1OCC1=CC=CC=C1)C(C)=O | C15H15NO2
reactant | benzenesulfonyl chloride | 73.5 mmol, 13.09 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Acetyl-2-benzyloxy-phenyl)-benzenesulfonamide | 12.55 g, 47% | C(C)(=O)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C21H19NO4S
